US04824846
A mixture of 3.605 g (10 mmol) of 1-(4-hydroxyphenyl)-4-(2-methyl-4-(4-tolyl)pyrimidin-6-yl)piperazine, 80 ml of toluene, 4.20 g (10 mmol) of 2-bromomethyl-2-(2,4 -dichlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolane (cis/trans mixture), 0.65 g of tetrabutylammonium bromide and 13.5 ml of 50% strength sodium hydroxide solution was stirred vigorously for 4 hours at 55° C. The phases were subsequently separated at room temperature, the sodium hydroxide solution was extracted by shaking three times with ether, and the tolune and ther phases were combined. These were washed three times with water, dried, filtered and evaporated in vacuo. The residue remaining (7.4 g) was chromatographed on a silica gel S/CH2Cl2 column (diameter 2.6 cm, height 11 cm) with elution using CH2Cl2. After elution, the fractions which were unary according to TLC were combined and evaporated in vacuo. 6.27 g (=91.6% yield) of 2-bromomethyl-2 -(2,4-dichlorophenyl)-4-[4-(4-(2-methyl-4-(4-tolyl)pyrimidin-6-yl)piperazin-1-yl)phenoxymethyl]-1,3-dioxolane (cis/trans mixture) were obtained as a highly viscous oil;

reactant | 1-(4-hydroxyphenyl)-4-(2-methyl-4-(4-tolyl)pyrimidin-6-yl)piperazine | 10 mmol, 3.605 g | OC1=CC=C(C=C1)N1CCN(CC1)C1=CC(=NC(=N1)C)C1=CC=C(C=C1)C | C22H24N4O
reactant | 2-bromomethyl-2-(2,4 -dichlorophenyl)-4-methanesulfonyloxymethyl-1,3-dioxolane | 10 mmol, 4.20 g | BrCC1(OCC(O1)COS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C12H13BrCl2O5S
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.65 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | 2-bromomethyl-2 -(2,4-dichlorophenyl)-4-[4-(4-(2-methyl-4-(4-tolyl)pyrimidin-6-yl)piperazin-1-yl)phenoxymethyl]-1,3-dioxolane | 6.27 g, 91.6% yield | BrCC1(OCC(O1)COC1=CC=C(C=C1)N1CCN(CC1)C1=CC(=NC(=N1)C)C1=CC=C(C=C1)C)C1=C(C=C(C=C1)Cl)Cl | C33H33BrCl2N4O3
